US09085540B2
To a mixture of 5-(3-aminophenoxy)-6-(2-hydroxypropan-2-yl)-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazine-2-carboxamide (27 mg), diisopropylethylamine (29 μL), and chloroform (5 ml) was added acryloyl chloride (7 μL) under ice-cooling, followed by stirring for 30 minutes. Further acryloyl chloride (7 μL) was added, followed by stirring under ice-cooling for 30 minutes. Diisopropylethylamine (29 μl) and acryloyl chloride (7 μL) were added thereto, followed by stirring for 30 minutes under ice-cooling. A saturated aqueous sodium hydrogen carbonate solution (10 mL) and tetrahydrofuran (20 mL) were added thereto under ice-cooling, followed by stirring for 10 minutes under ice-cooling. To the reaction mixture was added a 1 M aqueous sodium hydroxide solution (2 mL), followed by stirring at room temperature for 30 minutes. The reaction mixture was subjected to liquid separation and to the organic phase was added silica gel. Then, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent; chloroform:methanol:28% aqueous ammonia=1:0:0-200:10:1), washed with ethyl acetate, and the solid was collected by filtration and then dried under reduced pressure to obtain 5-[3-(acryloylamino)phenoxy]-6-(2-hydroxypropan-2-yl)-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazine-2-carboxamide (18 mg) as a yellow solid.

reactant | 5-(3-aminophenoxy)-6-(2-hydroxypropan-2-yl)-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazine-2-carboxamide | 27 mg | NC=1C=C(OC=2N=C(C(=NC2C(C)(C)O)C(=O)N)NC2=CC=C(C=C2)N2CCN(CC2)C)C=CC1 | C25H31N7O3
reactant | diisopropylethylamine | 29 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acryloyl chloride | 7 μL | C(C=C)(=O)Cl | C3H3ClO
reactant | acryloyl chloride | 7 μL | C(C=C)(=O)Cl | C3H3ClO
reactant | Diisopropylethylamine | 29 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acryloyl chloride | 7 μL | C(C=C)(=O)Cl | C3H3ClO
reactant | sodium hydrogen carbonate | 10 mL | C(O)([O-])=O.[Na+]
reactant | sodium hydroxide | 1 M, 2 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-[3-(acryloylamino)phenoxy]-6-(2-hydroxypropan-2-yl)-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazine-2-carboxamide | 18 mg | C(C=C)(=O)NC=1C=C(OC=2N=C(C(=NC2C(C)(C)O)C(=O)N)NC2=CC=C(C=C2)N2CCN(CC2)C)C=CC1 | C28H33N7O4
